US06875765B2
To (S)-3-{2-benzyloxy-4-[3-(2-dimethylamino-ethyl)-ureido]-benzenesulfonylamino}-4,4-diethoxy-butyric acid tert-butyl ester (1.80 g, 2.9 mmol) in ethanol (100 mL) was added 20% Pd on carbon (250 mg) and stirred under 1 atmosphere of hydrogen for 24 h. The reaction was judged complete by thin layer analysis and filtered. The filtrate was evaporated to give (S)-3-{4-[3-(2-dimethylamino-ethyl)-ureido]-2-hydroxy-benzenesulfonylamino}-4,4-diethoxy-butyric acid tert-butyl ester as a colorless foam 1.54 g (100%). MS (APCI) m/z 533.4 (M+1).

reactant | (S)-3-{2-benzyloxy-4-[3-(2-dimethylamino-ethyl)-ureido]-benzenesulfonylamino}-4,4-diethoxy-butyric acid tert-butyl ester | 2.9 mmol, 1.80 g | C(C)(C)(C)OC(C[C@@H](C(OCC)OCC)NS(=O)(=O)C1=C(C=C(C=C1)NC(=O)NCCN(C)C)OCC1=CC=CC=C1)=O | C30H46N4O8S
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | Pd on carbon | 250 mg | [Pd] | Pd
product | (S)-3-{4-[3-(2-dimethylamino-ethyl)-ureido]-2-hydroxy-benzenesulfonylamino}-4,4-diethoxy-butyric acid tert-butyl ester | 1.54 g, 100% | C(C)(C)(C)OC(C[C@@H](C(OCC)OCC)NS(=O)(=O)C1=C(C=C(C=C1)NC(=O)NCCN(C)C)O)=O | C23H40N4O8S
